US05755994
4-(Propoxymethyl)benzoic acid (1.4 g, 7.2 mmol) was mixed with thionyl chloride (1.3 g, 10.9 mmol), pyridine (0.1 ml) and toluene (3 ml), followed by reacting them at 80° C. for 2 hours, and distilling off superfluous thionyl chloride and toluene under reduced pressure, to obtain raw 4-(propoxymethyl) benzoyl chloride.

reactant | 4-(Propoxymethyl)benzoic acid | 7.2 mmol, 1.4 g | C(CC)OCC1=CC=C(C(=O)O)C=C1 | C11H14O3
reactant | thionyl chloride | 10.9 mmol, 1.3 g | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | 0.1 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(propoxymethyl) benzoyl chloride | C(CC)OCC1=CC=C(C(=O)Cl)C=C1 | C11H13ClO2
